US09029545B2
N-[3-(3-Bromophenyl)-6-methylthieno[2,3-b]pyridin-4-yl]-3-chlorobenzenesulfonamide
A mixture of ethyl 3-(3-bromophenyl)-4-{[(3-chlorophenyl)sulfonyl]amino}-6-methylthieno[2,3-b]pyridine-5-carboxylate (Description 52) (1.4 g, 2.474 mmol) in DMSO (25 mL) and aqueous NaOH (5M) (1.979 mL, 9.90 mmol) was heated at 150° C. for ca. 1 h. After cooling to RT, the mixture was diluted with water (20 mL) and acidified to ca. pH 4 with formic acid. The mixture was then extracted with ethyl acetate (30 mL×3) and the combined organics dried and concentrated. Water (30 mL) was added to the residue and a yellow precipitate crashed-out which was filtered and rinsed with water (15 mL×3). The yellow solid was dried and subsequently taken-up in diphenyl ether (15.74 mL, 99 mmol) and heated at 200° C. for ca. 1.5 h and then allowed to stand at RT overnight. The mixture was purified by chromatography on silica, eluting with a gradient of 0-100% ethyl acetate in cyclohexane followed by 10% MeOH in DCM, to give the title compound (820 mg). LCMS (A) m/z: 494/496 [M+1]+, Rt 1.31 min (acidic).

reactant | ethyl 3-(3-bromophenyl)-4-{[(3-chlorophenyl)sulfonyl]amino}-6-methylthieno[2,3-b]pyridine-5-carboxylate | 2.474 mmol, 1.4 g | BrC=1C=C(C=CC1)C1=CSC2=NC(=C(C(=C21)NS(=O)(=O)C2=CC(=CC=C2)Cl)C(=O)OCC)C | C23H18BrClN2O4S2
reactant | NaOH | 9.90 mmol, 5M, 1.979 mL | [OH-].[Na+]
reactant | formic acid | C(=O)O | CH2O2
reactant | diphenyl ether | 99 mmol, 15.74 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | DMSO | 25 mL | CS(=O)C | C2H6OS
solvent | water | 20 mL | O | H2O
product | N-[3-(3-Bromophenyl)-6-methylthieno[2,3-b]pyridin-4-yl]-3-chlorobenzenesulfonamide | 820 mg | BrC=1C=C(C=CC1)C1=CSC2=NC(=CC(=C21)NS(=O)(=O)C2=CC(=CC=C2)Cl)C | C20H14BrClN2O2S2
